US06444823B1
N-{4-[1-(cyclohexylphenylmethyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide (Substance 46)
3.8 g (15.0 mmol) (bromocyclohexylphenyl)-methane, 4.3 g (15.0 mmol) N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide, 3.1 g (22.5 mmol) potassium carbonate and 0.22 g (1.5 mmol) sodium iodide are stirred in 40 ml DMF for two hours at ca. 105° C. After cooling, the mixture is poured into 100 ml water and extracted with 150 ml acetic acid ethyl ester. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified twice over silica gel with CHCl3/CH3OH (90/10 and 95/5) and crystallized from 10 ml acetonitrile after drawing off the solvent. Beige colored crystals with an MP of 109-110° C., yield 1.4 g (20%).

reactant | (bromocyclohexylphenyl)-methane | 15.0 mmol, 3.8 g | BrC=1C(=C(C=CC1)C)C1CCCCC1 | C13H17Br
reactant | N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide | 15.0 mmol, 4.3 g | N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C17H27N3O
reactant | potassium carbonate | 22.5 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.5 mmol, 0.22 g | [I-].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-{4-[1-(cyclohexylphenylmethyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide | C1(CCCCC1)C(N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C30H43N3O
